US07354571B2
Synthesis of di(methyltrimethylsilanyl) 2-(4-methoxybenzylidene)malonate According to Route C
4-Methoxybenzaldehyde (12.3 g, 0.03 mol) and di(methyltrimethylsilyl) malonate (25 g, 0.09 mol) in 40 ml of dry toluene in the presence of 0.9 ml of piperidine and 0.5 ml of acetic acid are refluxed for 4 hours in a reactor equipped with Dean-Stark apparatus. The water formed is removed azeotropically. The mixture is cooled and the toluene is removed by distillation. The reaction mixture is taken up in diisopropyl ether. The organic phase is washed 3 times with water, dried over sodium sulfate and filtered, and the solvent is evaporated off under vacuum. The solid obtained is recrystallized from isopropanol to give 25.1 g (yield: 71%) of the derivative of Example 13 in the form of a white powder:

reactant | 4-Methoxybenzaldehyde | 0.03 mol, 12.3 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | di(methyltrimethylsilyl) malonate | 0.09 mol, 25 g | C(CC(=O)O[Si](CC)(C)C)(=O)O[Si](CC)(C)C | C11H24O4Si2
reactant | piperidine | 0.9 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | di(methyltrimethylsilanyl) 2-(4-methoxybenzylidene)malonate | yield: 71% | COC1=CC=C(C=C(C(=O)O[Si](CC)(C)C)C(=O)O[Si](CC)(C)C)C=C1 | C19H30O5Si2
